### PR TITLE
[Merged by Bors] - feat: port Data.Set.UnionLift

### PR DESCRIPTION
**Pull request by dupuisf**

### CODE REVIEW

File: Mathlib/Data/Set/UnionLift.lean [hunk 1]
```diff
@@ -0,0 +1,172 @@
...
+variable {S : ι → Set α} {f : ∀ (i) (_ : S i), β}
+  {hf : ∀ (i j) (x : α) (hxi : x ∈ S i) (hxj : x ∈ S j), f i ⟨x, hxi⟩ = f j ⟨x, hxj⟩} {T : Set α}
+  {hT : T ⊆ unionᵢ S} (hT' : T = unionᵢ S)
+
+@[simp]
+theorem unionᵢLift_mk {i : ι} (x : S i) (hx : (x : α) ∈ T) :
+    unionᵢLift S f hf T hT ⟨x, hx⟩ = f i x := by
+  let j := Classical.indefiniteDescription _ (mem_unionᵢ.1 (hT hx))
+  cases' x with x hx
+  exact hf j i x j.2 _
```
Comment (dupuisf) [inline Mathlib/Data/Set/UnionLift.lean:74]: `j` here is being flagged as being unused, but it clearly is.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
